US07858640B2
[8-chloro-3-(4-methanesulfonylbenzyl)-4-methyl-2-trifluoromethanesulfonyloxyquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of [8-chloro-3-(4-methanesulfonylbenzyl)-4-methyl-2-oxo-1,2-dihydroquinolin-5-yloxy]acetic acid methyl ester (0.22 g), N-phenyltrifluoromethanesulfonimide (0.35 g), potassium carbonate (0.090 g) and N,N-dimethylformamide (5.0 mL) was stirred at room temperature for 17 hours. The mixture was partitioned between dichloromethane and water and the aqueous phase extracted with dichloromethane. The combined organic phases were washed with water, dried over sodium sulfate and the solvent removed under reduced pressure. Purification of the residue by column chromatography on silica gel, eluting with dichloromethane gave title compound, 0.080 g.

reactant | [8-chloro-3-(4-methanesulfonylbenzyl)-4-methyl-2-oxo-1,2-dihydroquinolin-5-yloxy]acetic acid methyl ester | 0.22 g | COC(COC1=C2C(=C(C(NC2=C(C=C1)Cl)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C)=O | C21H20ClNO6S
reactant | N-phenyltrifluoromethanesulfonimide | 0.35 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | potassium carbonate | 0.090 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | [8-chloro-3-(4-methanesulfonylbenzyl)-4-methyl-2-trifluoromethanesulfonyloxyquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)OS(=O)(=O)C(F)(F)F)CC1=CC=C(C=C1)S(=O)(=O)C)C)=O | C22H19ClF3NO8S2
